US08877739B2
Synthesis of N5-(2-hydroxy-3-sulfophenyl)-L-glutamine (Compound No. 10)
Z-Glu-OBn (371 mg, 1 mmol) was dissolved in methylene chloride (1 ml), and CDI (180 mg, 1.1 mmol) was added to the solution. The mixture was stirred at room temperature for 30 minutes. 2-Amino-4-chlorophenol-6-sulfonic acid (223 mg, 1 mmol) and THF (1 ml) were added to the mixture. The mixture was then stirred overnight at room temperature. After the solvent was removed by distillation, the mixture was purified in accordance with the purification step A. The resulting intermediate was dissolved in a methanol-water solvent mixture. A catalytic amount of Pd/C was added to the solution. The mixture was stirred overnight at room temperature in a hydrogen atmosphere. After the catalyst was filtered off, the solvent was removed by distillation. The mixture was purified according to the purification step A to give the title compound.

reactant | Z-Glu-OBn | 1 mmol, 371 mg | N([C@@H](CCC(O)=O)C(=O)OCC1=CC=CC=C1)C(=O)OCC1=CC=CC=C1 | C20H21NO6
reactant | CDI | 1.1 mmol, 180 mg | C1=CN(C=N1)C(=O)N2C=CN=C2 | C7H6N4O
reactant | 2-Amino-4-chlorophenol-6-sulfonic acid | 1 mmol, 223 mg | C1=C(C=C(C(=C1S(=O)(=O)O)O)N)Cl | C6H6ClNO4S
reactant | THF | 1 ml | C1CCOC1 | C4H8O
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | N5-(2-hydroxy-3-sulfophenyl)-L-glutamine | yield: 40% | OC1=C(C=CC=C1S(=O)(=O)O)NC(CC[C@H](N)C(=O)O)=O | C11H14N2O7S
